US05284644
The compound 4-nitrophenylacetic acid (30.2 g, 0.166 mole) was dissolved in 210 ml (1.7 mole) of 33% aqueous dimethylamine solution and cooled to 10° C. in an ice bath. Immediately to the reaction solution was added dropwise 150 ml of 38% aqueous formaldehyde solution, under a nitrogen atmosphere, while maintaining the temperature between 15°-20° C. When the addition of the formaldehyde was complete, the reaction mixture was stirred for 0.5 hours at 20° C., then for 0.5 hours with warming to 60° C. (evolving carbon dioxide), and then for 10 hours at room temperature. The light yellow oil, which separated from solution, was taken up in 3×30 ml portions of chloroform. The chloroform layer was extracted with 3×30 ml portions of 3N hydrochloric acid. Upon neutralization with saturated potassium bicarbonate solution an oily layer was separated, extracted with 3×30 ml portions of chloroform, washed with an equal volume of saturated sodium chloride solution, and dried over anhydrous Na2SO4. Evaporation of the chloroform provided 31.5 g (93%) of crude α-(N,N-dimethylaminomethyl)-p-nitrostyrene.

reactant | 4-nitrophenylacetic acid | 0.166 mole, 30.2 g | [N+](=O)([O-])C1=CC=C(C=C1)CC(=O)O | C8H7NO4
reactant | dimethylamine | 1.7 mole, 210 ml | CNC | C2H7N
reactant | carbon dioxide | C(=O)=O | CO2
solvent | formaldehyde | 150 ml | C=O | CH2O
product | α-(N,N-dimethylaminomethyl)-p-nitrostyrene | 31.5 g, 93% | CN(C)CC(=C)C1=CC=C(C=C1)[N+](=O)[O-] | C11H14N2O2
